US06494923B2
Method for Preparing Ammonium 4-(4-dimethylaminobenzylidene)-5-oxo-1-(4-sulfophenyl)-4,5-dihydro-1H-pyrazole-3-carboxylic acid (7a)
2.85 g of 5-hydroxy-1-(4-sulfophenyl)-1H-pyrazole-3-carboxylic acid, 1.65 g of 4-dimethylaminobenzaldehyde and 0.8 g of ammonium acetate in 25 mL of ethanol were heated at 60° C. After 7 hours, the mixture was cooled and filtered.

reactant | 5-hydroxy-1-(4-sulfophenyl)-1H-pyrazole-3-carboxylic acid | 2.85 g | OC1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)O)C(=O)O | C10H8N2O6S
reactant | 4-dimethylaminobenzaldehyde | 1.65 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | ammonium acetate | 0.8 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | Ammonium 4-(4-dimethylaminobenzylidene)-5-oxo-1-(4-sulfophenyl)-4,5-dihydro-1H-pyrazole-3-carboxylic acid | CN(C1=CC=C(C=C2C(=NN(C2=O)C2=CC=C(C=C2)S(=O)(=O)O)C(=O)O)C=C1)C.[NH4+] | InChI=1S/C19H17N3O6S.H3N/c1-21(2)13-5-3-12(4-6-13)11-16-17(19(24)25)20-22(18(16)23)14-7-9-15(10-8-14)29(26,27)28;/h3-11H,1-2H3,(H,24,25)(H,26,27,28);1H3/p+1
